US08859732B2
Methyl 3,4,5-tris(octadecyloxy)cyclohexylcarboxylate (70.0 g, 73.9 mmol) was dissolved in THF (1050 ml), and DIBAL (1.0 mol/L toluene solution, 200 ml, 200 mmol) was added dropwise at 0° C. over 40 min under a nitrogen atmosphere. After stirring at room temperature for 2 hr, 0.2N hydrochloric acid (50 ml) was added dropwise at 0° C. to quench the reaction. The solvent was evaporated to about half, and the residue was dissolved in chloroform (700 ml). The mixture was washed three times with 1N hydrochloric acid (300 ml), once with 5% aqueous sodium hydrogen carbonate solution (300 ml), and once with 20% brine (300 ml). The solvent was evaporated, and the residue was precipitated with methanol (700 ml), and washed with acetonitrile to give 3,4,5-tris(octadecyloxy)cyclohexylmethyl alcohol (68.2 g, 74.2 mmol, 100%).

reactant | Methyl 3,4,5-tris(octadecyloxy)cyclohexylcarboxylate | 73.9 mmol, 70.0 g | C(CCCCCCCCCCCCCCCCC)OC1CC(CC(C1OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)C(=O)OC | C62H122O5
reactant | DIBAL | 200 mmol, 1.0 mol/L, 200 ml | CC(C)C[AlH]CC(C)C
reactant | hydrochloric acid | 0.2N, 50 ml | Cl | ClH
solvent | THF | 1050 ml | C1CCOC1 | C4H8O
product | 3,4,5-tris(octadecyloxy)cyclohexylmethyl alcohol | 74.2 mmol, 68.2 g, 100% | C(CCCCCCCCCCCCCCCCC)OC1CC(CC(C1OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)CO | C61H122O4
